US04166115
A 2 N aqueous solution of sodium hydroxide (11 ml.) was added with stirring at ambient temperature to a solution of methyl 2-methoxyimino-2-(4-hydroxyphenyl)acetate (syn isomer) (2.1 g.) in methanol (30 ml.) and the mixture was stirred for 18 hours at ambient temperature. The reaction mixture was adjusted to pH 7 with 10% hydrochloric acid and methanol was removed. To the residue was added water and the mixture was washed with ether. The aqueous layer was adjusted to pH 1 with 10% hydrochloric acid, subjected to salting-out and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. Ethyl acetate was distilled off to give crystals of 2-methoxyimino-2-(4-hydroxyphenyl)acetic acid (syn isomer) (1.5 g.).

reactant | sodium hydroxide | 11 ml | [OH-].[Na+]
reactant | methyl 2-methoxyimino-2-(4-hydroxyphenyl)acetate | 2.1 g | CON=C(C(=O)OC)C1=CC=C(C=C1)O | C10H11NO4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2-methoxyimino-2-(4-hydroxyphenyl)acetic acid | 1.5 g | CON=C(C(=O)O)C1=CC=C(C=C1)O | C9H9NO4
